US06133279
To a solution of 0.43 ml of dimethyl sulfoxide in 12 ml of dichloromethane cooled to -78° C. under nitrogen was added dropwise 0.26 ml of oxalyl chloride. After 15 minutes, a solution of 4,6-di-t-butyl-2-hydroxymethyl-2-methyl-5-trimethylsilyloxy-2,3-dihydrobenzofuran in 5 ml of dichloromethane was added dropwise. After further 15 minutes, 1.91 ml of triethylamine was added dropwise and then the mixture was slowly warmed to room temperature. After one hour, the reaction solution was poured into water and extracted with dichloromethane, and the combined organic layers were washed with saturated brine, dried over anhydrous magnesium sulfate, and then concentrated. The residue was purified on a short column of silica gel eluting with n-hexane containing 9% ethyl acetate to give 1.04 g of 4,6-di-t-butyl-2-formyl-2-methyl-5-trimethylsilyloxy-2,3-dihydrobenzofuran containing impurities.

reactant | dimethyl sulfoxide | 0.43 ml | CS(=O)C | C2H6OS
reactant | oxalyl chloride | 0.26 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4,6-di-t-butyl-2-hydroxymethyl-2-methyl-5-trimethylsilyloxy-2,3-dihydrobenzofuran | C(C)(C)(C)C1=C(C(=CC2=C1CC(O2)(C)CO)C(C)(C)C)O[Si](C)(C)C | C21H36O3Si
reactant | triethylamine | 1.91 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 12 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
product | 4,6-di-t-butyl-2-formyl-2-methyl-5-trimethylsilyloxy-2,3-dihydrobenzofuran | 1.04 g | C(C)(C)(C)C1=C(C(=CC2=C1CC(O2)(C)C=O)C(C)(C)C)O[Si](C)(C)C | C21H34O3Si
